US06229026B1
5-tert.Butylcarbamylphthalid
5-Carboxyphthalid (36 g, 0.2 mole) is suspended in thionylchloride (100 mL). DMF (1.5 mL) is added and the mixture is refluxed for 1 hour. Toluene (200 mL) is added and the solvents are evaporated in vacuo. The residue is dissolved in THF (200 mL) and added to a solution of tert.butylamine (31 g, 0.42 mole) in THF (200 mL) at 5° C. The mixture is allowed to warm to room temperature and stirred overnight. The reaction is then poured into ice water (400 mL) and the precipitated crystals are filtered off. The crystals are washed with water (100 mL). Yield: 41 g, 87%. DSC onset: 189.5° C.

reactant | 5-Carboxyphthalid | 0.2 mole, 36 g | C(=O)(O)C=1C=C2COC(=O)C2=CC1 | C9H6O4
reactant | DMF | 1.5 mL | CN(C)C=O | C3H7NO
reactant | Toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
reactant | tert.butylamine | 0.42 mole, 31 g | C(C)(C)(C)N | C4H11N
solvent | thionylchloride | 100 mL | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 5-tert.Butylcarbamylphthalid | C(C)(C)(C)NC(=O)C=1C=C2COC(=O)C2=CC1 | C13H15NO3
